US05631373
7-Bromo-3,4-dihydro-6-methyl-quinoxaline-2(1H)-one:
A solution of N-(4'-bromo-5'-methyl-2'-nitrophenyl)glycine sodium salt (0.200 g, 0.692 mmol, as prepared above) and tin (II) chloride dihydrate (0.468 g, 2.07 mmol, Aldrich, used as received) in ethanol (2.0 mL) was refluxed for 30 min. It was then cooled to room temperature. The precipitated solid was filtered and dried under vacuum to yield 0.064 g (38%) of the title compound as a yellow powder; 1NMR (DMSO-d6): δ2.130 (s, 3H), 3.674 (s, 2H), 6.120 (s, 1H), 6.583 (s, 1H), 6.868 (s, 1H), 10.284 (s, 1H).

reactant | N-(4'-bromo-5'-methyl-2'-nitrophenyl)glycine sodium salt | 0.692 mmol, 0.200 g | [Na+].BrC1=CC(=C(C=C1C)NCC(=O)[O-])[N+](=O)[O-]
reactant | tin (II) chloride dihydrate | 2.07 mmol, 0.468 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | 7-Bromo-3,4-dihydro-6-methyl-quinoxaline-2(1H)-one | 0.064 g, 38% | BrC1=C(C=C2NCC(NC2=C1)=O)C | C9H9BrN2O
